US09216173B2
To a solution of benzyl {6-[(2-hydroxy-2-methylpropoxy)methyl]pyridin-2-yl}carbamate (368 mg, 1.11 mmol) in methanol (11 mL) was added palladium on carbon (10% w/w, 119 mg, 1.11 mmol). A hydrogen balloon was fitted on top of the flask and the flask was evacuated and then backfilled with hydrogen. The reaction mixture was stirred at room temperature for 1 hour. The reaction mixture was filtered through CELITE, and the CELITE was washed with methanol. The filtrate was concentrated under reduced pressure. The residue was purified by silica gel chromatography (0-12% methanol/DCM, linear gradient) to afford 1-[(6-aminopyridin-2-yl)methoxy]-2-methylpropan-2-ol. MS ESI calc'd. for C10H17N2O2 [M+H]+ 197. found 197. 1H NMR (500 MHz, CDCl3) δ 7.42 (t, J=7.8 Hz, 1H), 6.69 (d, J=7.3 Hz, 1H), 6.39 (d, J=8.2 Hz, 1H), 4.53 (s, 2H), 4.49 (s, 1H), 3.41 (s, 2H), 1.23 (s, 6H).

reactant | benzyl {6-[(2-hydroxy-2-methylpropoxy)methyl]pyridin-2-yl}carbamate | 1.11 mmol, 368 mg | OC(COCC1=CC=CC(=N1)NC(OCC1=CC=CC=C1)=O)(C)C | C18H22N2O4
reactant | hydrogen | [H][H] | H2
solvent | methanol | 11 mL | CO | CH4O
catalyst | palladium on carbon | 1.11 mmol, 119 mg | [Pd] | Pd
product | 1-[(6-aminopyridin-2-yl)methoxy]-2-methylpropan-2-ol | NC1=CC=CC(=N1)COCC(C)(O)C | C10H16N2O2
